Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___
 
Chief Complaint:
Cough, hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F w/ PMH of p/w hypoxia in office and new B pleural 
effusions. Pt. recently Dx w/ CHF EF 45-50% by PCP ___, had 
echo ___ mild LVH, pulm HTN, interatrial septal aneurysm. She 
was started on 10mg lasix PO daily. She has had DOE for the past 
3 wks and cough for the past 1 week. The cough is productive of 
clear sputum. She was recently ___ switched from amlodipine 
10mg daily to lisinopril 20mg daily for BP control and presented 
to PCPs office for BP check today and noted 90% on RA. CXR 
showed volume overload and was sent to ED. BNP in ED >4000 and 
CXR w/ bilateral pleural effusions. Given lasix 20mg IV. Denies 
any recent intake of canned soups/vegetables or deli meats, 
generally cooks her own food. She has been taking advil ___ on 
occasional nights to help with sleep otherwise denies NSAIDS.  
.  
Pt. denies any F/C/NS, denies orthopnea but states SOB w/ cough. 
Denies chest pain.  
.  
VS initially in ED: 98.1 88 154/87 20 97  

 
Past Medical History:
HTN  
Hyperlipidemia  
CHF (systolic and diastolic dysfunction, ___ echo with EF of 
45-50%, grade 2 diastolic dysfunction and interatrial septal 
aneurysm)
L BRCA s/p mastectomy ___ T2, no chemo finished arimidex.  
Glaucoma  
Arthritis
 
Social History:
___
Family History:
+ for arthritis in her grandmother and daughter.
 
Physical Exam:
Admission Physical Exam:  
VS: BP 153/83, P 76, RR 18, O2sat 96% RA -> 85-90% on 
ambulation, 157 lb
GEN: A/Ox3, engaging and in no acute distress  
HEENT: MMM, OP clear, dentures  
CV: RRR, no m/r/g. JVP of 12cm. 
PULM: CTA bilaterally, anterior and posterior, except for mild 
rhonchi in right, middle posterior.  
ABD: Soft, NTND, +BS  
LIMBS: Trace ___ edema, DP, radial pulses 2+ bilaterally  
.
Discharge Physical Exam: stable except for the following: 
VS: T 98.2, BP 156/91 (SBP 120-157), P 96 (67-98), RR 20, O2sat 
95-98% -> 92-94% on ambulation, 152.4 lb
CV: JVP of 8cm.
Lungs: CTAB, anterior and posterior.
 
Pertinent Results:
Admission labs:
___ 05:25PM BLOOD WBC-7.2 RBC-3.69* Hgb-11.6* Hct-34.9* 
MCV-95 MCH-31.4 MCHC-33.2 RDW-14.1 Plt ___
___ 05:25PM BLOOD Neuts-68.4 ___ Monos-5.5 Eos-2.4 
Baso-0.6
___ 05:25PM BLOOD Plt ___
___ 05:25PM BLOOD Glucose-127* UreaN-15 Creat-1.2* Na-143 
K-4.0 Cl-109* HCO3-25 AnGap-13
___ 05:25PM BLOOD ALT-25 AST-27 AlkPhos-48 TotBili-0.5
___ 05:25PM BLOOD proBNP-4183*
___ 05:25PM BLOOD cTropnT-0.02*
___ 06:40AM BLOOD cTropnT-0.02*
___ 06:40AM BLOOD TSH-0.83
.
Discharge labs:
___ 06:20AM BLOOD WBC-7.7 RBC-3.83* Hgb-12.1 Hct-36.1 
MCV-95 MCH-31.7 MCHC-33.6 RDW-13.8 Plt ___
___ 06:20AM BLOOD Glucose-109* UreaN-14 Creat-0.8 Na-144 
K-3.9 Cl-108 HCO3-27 AnGap-13
___ 06:20AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.0
.
ECG ___ 
Normal sinus rhythm. Q wave in leads V1-V2. Diffuse ST-T wave 
changes in the standard leads and lateral precordial leads. 
Consider anteroseptal myocardial infarction No previous tracing 
available for comparison.  
.
CXR PA+Lateral ___
IMPRESSION: 
1. Cardiomegaly without evidence for pulmonary edema. Small 
bilateral pleural effusions with bibasilar atelectasis. 
2. Bilateral glenohumeral degenerative changes, with deformity 
of the right humeral head which may relate to prior trauma. 
Correlate clinically, and consider dedicated radiographs of the 
right shoulder for further evaluation. 
.
TTE ___
Conclusions  
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Overall 
left ventricular systolic function is borderline normal (LVEF = 
50-55%). Doppler parameters are most consistent with Grade 
III/IV (severe) left ventricular diastolic dysfunction. The 
right ventricular cavity is mildly dilated with mild global free 
wall hypokinesis. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
left ventricular inflow pattern suggests a restrictive filling 
abnormality, with elevated left atrial pressure. The tricuspid 
valve leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is a trivial/physiologic 
pericardial effusion. 
IMPRESSION: Moderate left ventricular hypertrophy with 
borderline normal systolic function and severe diastolic 
function (consider infiltrative disease such as amyloid).   

 

 
Brief Hospital Course:
A+P: ___ woman with hx of CHF, HTN and breast cancer who 
presents with cough, dyspnea and bilateral pleural effusions.  
.
# Acute on Chronic Systolic and Diastolic Heart Failure: Pt 
found to have bilateral pleural effusions on CXR.  Initial 
differential included ACS, PE, malignant pleural effusions but 
elevated BNP (4183), elevated JVD (to earlobe on admit), and 
clinical improvement with diuresis (O2 sats on ambulation 92-94% 
on discharge) most consistent with acute on chronic CHF.  Pt 
ruled out for ACS with plan for outpatient stress MIBI on 
___ (already scheduled).  ___ nl.  Echo showed EF now 50-55% 
but worsened diastolic heart failure with a question of 
infiltrative process (e.g. amyloid).  Could consider further 
work-up as an outpatient.  Pt discharged on lasix 80mg daily and 
home ___ for CHF monitoring and education; weight on discharge 
152.4 lbs.  Continued on beta blocker; ACE-I changed to ___ as 
below.  Pt to follow up with PCP ___ ___ should have 
Chemistries, BP, and fluid status checked at that time.  Pt will 
also follow up with her outpatient cardiologist, Dr. ___.
.
# Cough: Likely due to acute on chronic CHF, may also have 
component from ACE-I.  Lisinopril changed to Valsartan (80mg 
daily).  
.
# Acute renal failure: admitted with Cre of 1.2 which normalized 
to 0.8 with diuresis.
.
# HTN: increase in SBP to 140-150s once lisinopril discontinued. 
 Switched to valsartan, would increase HTN medications as 
tolerated. 
.
# Code status: Full. 
 
Medications on Admission:
Lisinopril 20mg Daily  
Alendronate 70mg QW  
ASA 81mg daily  
Crestor 20mg daily  
Metoprolol XL 25mg daily  
Furosemide 10mg daily  
Xalatan 0.005% 1 drop qhs
Qualaquin 324mg 1 cap qhs prn
MVI daily
Calcium 

 
Discharge Medications:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
6. QUALAQUIN 324 mg Capsule Sig: One (1) Capsule PO at bedtime 
as needed.  
7. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
8. Calcium  Oral
9. Valsartan 80 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
10. Furosemide 40 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Acute on chronic systolic and diastolic heart failure
.
Secondary diagnoses:
Hypertension
Acute renal failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (cane 
occasionally).
O2sats 95-98% RA at rest, 92-94% on ambulation
Weight 152.4lb
 
Discharge Instructions:
Dear Ms. ___, it was a pleasure participating in your care 
during your stay at the ___ (___).  You were admitted 
for cough and low oxygen levels and found to have fluid overload 
in your lungs (acute on chronic congestive heart failure) which 
may be due to stiffening of your heart, which was seen on your 
echocardiogram.  Your kidney function was also slightly worse in 
this setting. Both your fluid overload and your kidney function 
improved with removal of fluid (diuresis) via intravenous lasix 
(furosemide).  You will be discharged with an increase dose of 
your oral lasix and your lisinopril was discontinued and 
valsartan was chosen to replace it, as lisinopril may have 
contributed to your cough.  It will be important to maintain 
good blood pressure control (with your medications and a low 
salt diet) to prevent worsening of your heart function. 

The following changes were made to your medications:
- Increase Lasix (furosemide) from 10 mg orally daily to 80 mg 
orally daily
- Discontinue lisinopril
- Start Valsartan 80 mg orally daily

Weigh yourself daily, if you gain more than 3lb in one day, 
please call your primary care doctor.
 
Followup Instructions:
___